US07026313B2
1-Cyclopentyl-7-methylsulfanyl-2-thia-1,6,8-triaza-naphthalene 2,2-dioxide (6.0 g, 20 mmol) prepared as in Example 1 and 2-benzenesulfonyl-3-phenyl-oxaziridine (6.3 g, 24 mmol) were dissolved in 50% dichloromethane in methanol (75 ml) and stirred overnight at room temperature. Following evaporation of the solvent, the crude product was purified by recrystallization in diethyl ether/methanol to yield 5.22 g (83% yield) 1-Cyclopentyl-7-methylsulfinyl-1H-thia-1,6,8-triaza-naphthalene 2,2-dioxide as a white solid MS: APCI: M+1: 314.1 (M: 314.3).

reactant | 1-Cyclopentyl-7-methylsulfanyl-2-thia-1,6,8-triaza-naphthalene 2,2-dioxide | 20 mmol, 6.0 g | C1(CCCC1)N1S(C=CC2=CN=C(N=C12)SC)(=O)=O | C12H15N3O2S2
reactant | 2-benzenesulfonyl-3-phenyl-oxaziridine | 24 mmol, 6.3 g | C1(=CC=CC=C1)S(=O)(=O)N1OC1C1=CC=CC=C1 | C13H11NO3S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 75 ml | CO | CH4O
product | 1-Cyclopentyl-7-methylsulfinyl-1H-thia-1,6,8-triaza-naphthalene 2,2-dioxide | 5.22 g, 83% yield | C1(CCCC1)N1S(C=CC2=CN=C(N=C12)S(=O)C)(=O)=O | C12H15N3O3S2
